US05215983
To a solution of 4-nitrobenzyl (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-4-methyl-3-[(2S,4S)-1-(4-nitrobenzyloxycarbonyl) -2-{4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-4yl}methylpyrrolidin-4-yl]thio-7-oxo-1-azabicyclo[3.2.0]-hept-2-ene-2-carboxylate (0.78 g) in a mixture of acetone (8 ml) and tetrahydrofuran (16 ml) was added methyl iodide (0.64 ml) with stirring and the mixture was allowed to stand at ambient temperature overnight. The reaction mixture was evaporated in vacuo to give 4-nitrobenzyl (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-4-methyl-3-[(2S,4S)-1-(4-nitro benzyloxycarbonyl)-2-{1-methyl-4,5,6,7-tetrahydro-4-pyrazolo [1,5-a]primidinio}methylpyrrolidin-4yl]thio-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate iodide (0.88 g).

reactant | 4-nitrobenzyl (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-4-methyl-3-[(2S,4S)-1-(4-nitrobenzyloxycarbonyl) -2-{4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-4yl}methylpyrrolidin-4-yl]thio-7-oxo-1-azabicyclo[3.2.0]-hept-2-ene-2-carboxylate | 0.78 g | O[C@H](C)[C@@H]1[C@H]2[C@H](C(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CN1C=2N(CCC1)N=CC2)C | C36H39N7O10S
reactant | methyl iodide | 0.64 ml | CI | CH3I
solvent | acetone | 8 ml | CC(=O)C | C3H6O
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
product | 4-nitrobenzyl (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-4-methyl-3-[(2S,4S)-1-(4-nitro benzyloxycarbonyl)-2-{1-methyl-4,5,6,7-tetrahydro-4-pyrazolo [1,5-a]primidinio}methylpyrrolidin-4yl]thio-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate iodide | 0.88 g | [I-].O[C@H](C)[C@@H]1[C@H]2[C@H](C(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C[NH+]1C=2N(CCC1)N(CC2)C)C | InChI=1S/C37H43N7O10S.HI/c1-22-32-31(23(2)45)35(46)42(32)33(36(47)53-20-24-5-9-26(10-6-24)43(49)50)34(22)55-29-17-28(18-39-14-4-15-41-30(39)13-16-38(41)3)40(19-29)37(48)54-21-25-7-11-27(12-8-25)44(51)52;/h5-13,22-23,28-29,31-32,45H,4,14-21H2,1-3H3;1H/t22-,23-,28+,29+,31-,32-;/m1./s1
